US04161594
1,3-Di-(β-hydroxy-n-propyl)-5-ethyl-5-methylhydantoin
A mixture of 256.3 g of 5ethyl-5-methylhydantoin (1.805 mols), 675 ml of dimethylformamide and 4.51 g of lithium chloride is stirred at 50° C. 288.0 g of propene oxide (4.96 mols) are slowly added dropwise over the course of 2 hours. Thereafter the temperature is gradually raised to 90° C. over the course of 10 hours. The reaction mixture is brought to pH = 7 with 4 drops of 2 N hydrochloric acid, filtered and concentrated on a rotational evaporator at 90° C. bath temperature, under a waterpumpvacuum. It is then treated at 90° C. under 0.1 mm Hg until the weight remains constant. 465 g of a clear pale yellow product (99.5% of theory) are obtained.

reactant | 5ethyl-5-methylhydantoin | 1.805 mols, 256.3 g | C(C)C1(C(NC(N1)=O)=O)C | C6H10N2O2
reactant | propene oxide | 4.96 mols, 288.0 g | C1C(C)O1 | C3H6O
catalyst | hydrochloric acid | 2 N, 4 drops | Cl | ClH
catalyst | lithium chloride | 4.51 g | [Cl-].[Li+]
solvent | dimethylformamide | 675 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(β-hydroxy-n-propyl)-5-ethyl-5-methylhydantoin | 465 g, 99.5% | OC(CN1C(=O)N(C(=O)C1(C)CC)CC(C)O)C | C12H22N2O4
